US05006520
In 200 ml of dimethylformamide were suspended 20 g of 3-(4-fluorophenyl)-1-(3-hydroxyphenyl)-1H-pyrazolo[3,4-b]pyridine, 21.9 g of bromoacetate and 18.1 g of potassium carbonate. The mixture was stirred at 65° C. for 4 hours. The reaction mixture was concentrated under reduced pressure. The residue was extracted with ethyl acetate-water. The organic layer was concentrated. Hexane was added to the residue for crystallization. The obtained crude crystals were recrystallized from isopropyl ether to give 10.9 g of ethyl 3-[3-(4-fluorophenyl)-1H-pyrazolo[3,4-b]pyridin-1-yl]phenoxyacetate, m.p. 130°-131° C.

reactant | 3-(4-fluorophenyl)-1-(3-hydroxyphenyl)-1H-pyrazolo[3,4-b]pyridine | 20 g | FC1=CC=C(C=C1)C1=NN(C2=NC=CC=C21)C2=CC(=CC=C2)O | C18H12FN3O
reactant | bromoacetate | 21.9 g | BrCC(=O)[O-]
reactant | potassium carbonate | 18.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | ethyl 3-[3-(4-fluorophenyl)-1H-pyrazolo[3,4-b]pyridin-1-yl]phenoxyacetate | 10.9 g | FC1=CC=C(C=C1)C1=NN(C2=NC=CC=C21)C=2C=C(OCC(=O)OCC)C=CC2 | C22H18FN3O3
